US04007033
Preparation of 1-methyl-1-(1-hydroxy-2,2,2-trichloroethyl)-3-phenyl urea
1-methyl-3-phenyl urea (7.5 g, 0.05 mol) was reacted with 7.5 g (0.05 mol) of chloral without solvent. The mixture was shaken for a short period of time. After, three drops of perchloric acid were added and the mixture heated gently for a few minutes to give a homogenous viscous oil. Upon cooling, a glass formed. The chemical analysis showed: %Cl, calculated 35.8, found 35.8; %N, calculated 9.4, found 8.0.

reactant | 1-methyl-3-phenyl urea | 0.05 mol, 7.5 g | CNC(=O)NC1=CC=CC=C1 | C8H10N2O
reactant | chloral | 0.05 mol, 7.5 g | O=CC(Cl)(Cl)Cl | C2HCl3O
catalyst | perchloric acid | three drops | Cl(=O)(=O)(=O)O | ClHO4
product | 1-methyl-1-(1-hydroxy-2,2,2-trichloroethyl)-3-phenyl urea | CN(C(=O)NC1=CC=CC=C1)C(C(Cl)(Cl)Cl)O | C10H11Cl3N2O2
